US07572820B2
1-{[5-(3,5-Dichlorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 241 from 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide and 3,5-dichlorobenzoic acid: MS (APCl) m/z 439 (M+1).

reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | C(#N)C=1C(=C2C=CN(C2=CC1)CC(NO)=N)C(F)(F)F | C12H9F3N4O
reactant | 3,5-dichlorobenzoic acid | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
product | 1-{[5-(3,5-Dichlorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | ClC=1C=C(C=C(C1)Cl)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C19H9Cl2F3N4O
